US08871948B2
To a solution containing 2-iodo-4-nitroaniline (25 g; 95 mmol) and triethylamine (43 ml; 312 mmol) in CH2Cl2 (250 ml), a solution containing methanesulphonyl chloride (36 g; 312 mmol) was added dropwise. The reaction mixture was left under stirring at room temperature for 18 hours, then NH4Cl (saturated solution) was added (250 ml). The biphasic solution was transferred into a separating funnel, the organic phase was separated, dried over Na2SO4 and the solvent was removed by evaporation under reduced pressure. The residue was suspended in EtOH (200 ml) and heated under stirring until a yellow solid precipitated. The crude product was filtered, washed with EtOH (750 ml), and dried under vacuum to give N-(2-iodo-4-nitrophenyl)-N-(methylsulfonyl)methanesulfonamide (32 g) which was used in the following reaction without any further purification.

reactant | 2-iodo-4-nitroaniline | 95 mmol, 25 g | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | triethylamine | 312 mmol, 43 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 312 mmol, 36 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | N-(2-iodo-4-nitrophenyl)-N-(methylsulfonyl)methanesulfonamide | 32 g | IC1=C(C=CC(=C1)[N+](=O)[O-])N(S(=O)(=O)C)S(=O)(=O)C | C8H9IN2O6S2
